US08703795B2
a) 7-Hydroxy-2-(4-phenoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester
The title compound was prepared from a mixture of 4-bromo-7-hydroxy-2-(4-phenoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester and 7-bromo-4-hydroxy-2-(4-phenoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester, example 7-c, under conditions analogous to experimental example 13-a with isolation of the higher Rf isomer. MS: (+) m/z 420.03 (M+1).

reactant | 4-bromo-7-hydroxy-2-(4-phenoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C=C(S2)C2=CC=C(C=C2)OC2=CC=CC=C2)O | C24H20BrNO4S
reactant | 7-bromo-4-hydroxy-2-(4-phenoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SC(=C2)C2=CC=C(C=C2)OC2=CC=CC=C2)O | C24H20BrNO4S
product | 7-Hydroxy-2-(4-phenoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C=N1)C=C(S2)C2=CC=C(C=C2)OC2=CC=CC=C2)O | C24H21NO4S
